Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p mechanical fall on ___
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female with a past medical history
of stroke in ___ with residual right-sided weakness who 
presents
after a fall at her home on ___.  She was in her usual state
of health and walking around her home when she tripped and hit
her back against a wall and slid down to the ground.  She did 
not
hit her head.  She was helped up by her boyfriend and resumed 
her
activities as normal.  The pain in her back and right hip became
progressively worse over the course of the next few days and she
presented to the proximal to the ED for evaluation this morning. 

Brought in, she underwent CT L spine and of the right hip which
revealed a fracture at the level of L2. 
___ teenager she was sent to ___ for further traumatic
evaluation.

Upon evaluation by trauma surgery, Ms. ___ has no further
complaints. She denies chest pain or tenderness, has no 
shortness
of breath, is able to move all extremities without pain, and her
sensation is intact.  Her right-sided weakness is unchanged from
her baseline.  She denies dysuria, urinary incontinence or
retention, bowel incontinence, or obstipation.  Her primary
complaint is her lower back pain.

 
Past Medical History:
CVA ___
diverticulitis s/p colectomy
anxiety
HLD
 
Social History:
___
Family History:
noncontributory 
 
Physical Exam:
Physical Exam:
Vitals: T: 97.7  HR:72  BP: 158/ 79  R:16  O2Sats:97% RA
Gen: NAD, A&Ox3
HEENT: NC/AT, EOMI
CV: RRR
Pulm: easy work of breathing on RA, normal chest rise
Abd: soft, nontender, nondistended, no palpable masses or 
hernias
Ext: warm and well perfused, normal sensation and ___ strength 
in
all limbs
Neuro: awake, alert, cooperative, slightly slurred speech (at
baseline)

 
Pertinent Results:
___ 08:45PM   GLUCOSE-85 UREA N-13 CREAT-0.5 SODIUM-143 
POTASSIUM-3.5 CHLORIDE-106 TOTAL CO2-25 ANION GAP-12
___ 08:45PM   estGFR-Using this
___ 08:45PM   ALT(SGPT)-11 AST(SGOT)-33 ALK PHOS-118* TOT 
BILI-0.5
___ 08:45PM   ALBUMIN-3.6
___ 08:45PM   WBC-6.4 RBC-3.95 HGB-11.7 HCT-36.3 MCV-92 
MCH-29.6 MCHC-32.2 RDW-13.0 RDWSD-43.9
___ 08:45PM   WBC-6.4 RBC-3.95 HGB-11.7 HCT-36.3 MCV-92 
MCH-29.6 MCHC-32.2 RDW-13.0 RDWSD-43.9
___ 08:45PM   NEUTS-69.2 ___ MONOS-7.5 EOS-2.2 
BASOS-0.3 IM ___ AbsNeut-4.40 AbsLymp-1.31 AbsMono-0.48 
AbsEos-0.14 AbsBaso-0.02
___ 08:45PM   PLT COUNT-176
___ 08:45PM   PLT COUNT-176

CT-L spine ___:
IMPRESSION: 
1. acute to subacute moderate superior endplate compression
deformity of the L2 vertebral body with approximately 50% height
loss and approximately 6mm bony retropulsion of fracture
fragments into the spinal canal. At least moderate spinal canal
stenosis at this level.  MRI lumbar spine would be helpful for
further assessment of cord pathology if clinically indicated.

2.  Multilevel degenerative disc disease in the lumbar spine
without high-grade spinal canal or neural foramen stenosis
identified at any other level.

3.  The paravertebral soft tissues demonstrate aortic
atherosclerosis without aneurysm, sigmoid diverticulosis,
cholecystectomy clips right upper quadrant with persistent
partially visualized intra-and extrahepatic biliary ductal
dilatation compared to prior CT dated ___.  

 
Brief Hospital Course:
The patient presented to Emergency Department as a trauma 
consultation on ___.

Patient had the following injuries:
1. L2 fx
2. R rib fx

Pt was evaluated by spine surgery whom recommended:
No Urgent or Emergent Neurosurgery
TLSO Brace
___ consult for walker at home due to frequent falls
Discharge with outpatient pain management
Follow up in spine clinic in 6 weeks
Brace may come off when supine or before going to bed. brace 
must
be on at all times when standing.
The patient may have a regular diet.

Neuro: The patient was alert and oriented throughout 
hospitalization; pain was  managed with oral medications. 

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.

Pulmonary: The patient remained stable from a pulmonary 
standpoint. nGood pulmonary toilet, early ambulation and 
incentive spirometry were encouraged throughout hospitalization. 


GI/GU/FEN: Patient did not have any acute issues from the 
GI/GU/FEN standpoint

ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.

HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.

Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
___:
Lipitor 80 po qd
Vitamin D3 1,000 units po qd
Magnesium oxide 400 mg po qd
Protonix 40 po qd
Zoloft 50 po qd
Alendronate sodium 35 mg po q7D
Aspirin EC 81 mg po qd
Ibuprofen 800 tid PRN
Trazadone 50 mg po q hs
 
Discharge Medications:
1.  Ibuprofen 800 mg PO Q8H:PRN Pain - Moderate  
2.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Severe 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 6 hours Disp #*15 
Tablet Refills:*0 
3.  Acetaminophen 650 mg PO TID  
4.  Alendronate Sodium 35 mg PO 1X/WEEK (WE)  
5.  Aspirin 81 mg PO DAILY  
6.  Atorvastatin 80 mg PO QPM  
7.  Pantoprazole 40 mg PO Q24H  
8.  Sertraline 50 mg PO DAILY  
9.  TraZODone 50 mg PO QHS:PRN sleep  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
s/p mechanical fall 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___ came here after a mechanical fall. ___ suffered a fracture 
in your spine and multiple rib fracture on your right side.

Please follow the instructions below. 

* Your injury caused several rib fractures and a vertebral body 
fracture which can cause severe pain and subsequently cause ___ 
to take shallow breaths because of the pain.
 
* ___ should take your pain medication as directed to stay ahead 
of the pain otherwise ___ won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk ___ must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* ___ will be more comfortable if ___ use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore ___ 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___